Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:9][C:10]([H:11])[H:12].[H:8],1.7792911731299998
[C:11]([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.23575660687
[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-7.140420269339999
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8].[O:9][H:10],4.66911889955
[H:1][C:2][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-3.96561616663
[H:15].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.5701570059300005
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:9][H:10].[H:8],1.549541681
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]=[C:9]([H:10])[H:11].[H:8],4.887141504780001
[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-7.59948935859
[C:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1].[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[H:8])\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],5.02353170407
[H:10].[O:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-2.78816315775
[H:7].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10](=[O:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10](=[O:11])[H:12],-2.0737583886900004
[H:13].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-4.83688489246
[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[C:4])[O:9][H:10]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])[H:8])[O:9][H:10],-6.88657790498
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:12]([H:13])([H:14])[H:15],4.972069250350001
[O:1][C:2](=[O:3])[C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2]=[O:3],0.0335488507699
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],2.43862678427
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],0.754136556639
[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7].[H:8],2.50672769553
[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.87554305911
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],4.94859945862
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],3.30944758398
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.31229366494
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],5.02576660847
[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-5.24202651749
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8][H:9].[O:10][H:11]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-6.07757328372
[H:3].[O:1]=[C:2]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.57183188556
[H:1][C:2]([H:3])/[C:4]([O:5][C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])[C:4](=[O:5])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],2.03503731786
